US07470710B2
(RS)-1-[4(4-Fluoro-phenyl)-1-methyl-1H-pyrazole-3-yl(2-furo[3,2-b]pyridin-2-ylmethyl-piperidin-1-yl)methanone
The title compound was prepared using the method of Example 4, from 4-(4-fluoro-phenyl)-1-methyl-1H-pyrazole-3-carboxylic acid (110 mg, 0.5 mmol) and (RS)-2-Piperidin-2-ylmethyl-furo[3,2-b]pyridine, D47(108 mg, 0.5 mmol), as a colourless solid (130 mg, 62%).

reactant | 4-(4-fluoro-phenyl)-1-methyl-1H-pyrazole-3-carboxylic acid | 0.5 mmol, 110 mg | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)O | C11H9FN2O2
reactant | (RS)-2-Piperidin-2-ylmethyl-furo[3,2-b]pyridine | N1C(CCCC1)CC1=CC2=NC=CC=C2O1 | C13H16N2O
product | 4(4-Fluoro-phenyl)-1-methyl-1H-pyrazole-3-yl(2-furo[3,2-b]pyridin-2-ylmethyl-piperidin-1-yl)methanone | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)N1C(CCCC1)CC1=CC2=NC=CC=C2O1 | C24H23FN4O2
